US09079866B2
5-[2′-(Azepan-1-ylsulfonyl)-3-fluorobiphenyl-4-yl]pyrazin-2-amine
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 1-((2-bromophenyl)sulfonyl)azepane. MS (ESI): mass calcd. for C22H23FN4O2S, 426.15; m/z found, 427.2 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.37 (s, 1H), 8.21 (s, 1H), 8.02 (d, J=7.9, 1H), 7.96 (t, J=8.2, 1H), 7.66 (m, 1H), 7.60-7.55 (m, 1H), 7.38 (d, J=6.5, 1H), 7.31-7.24 (m, 2H), 1.63-1.52 (m, 12H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-((2-bromophenyl)sulfonyl)azepane | BrC1=C(C=CC=C1)S(=O)(=O)N1CCCCCC1 | C12H16BrNO2S
product | 5-[2′-(Azepan-1-ylsulfonyl)-3-fluorobiphenyl-4-yl]pyrazin-2-amine | N1(CCCCCC1)S(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1N=CC(=NC1)N)F | C22H23FN4O2S
